### PR TITLE
[Merged by Bors] - feat: Add OrthonormalBasis.measurePreserving_measurableEquiv

### PR DESCRIPTION
**Pull request by xroblot**
Let `F` be a finite-dimensional inner product space. Then any orthonormal basis of `F` defines a measurable equivalence between `F` and the euclidean space of the same dimension that is volume preserving. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Haar/InnerProductSpace.lean [hunk 1]
```diff
@@ -80,6 +80,19 @@ theorem OrthonormalBasis.addHaar_eq_volume {ι F : Type*} [Fintype ι] [NormedAd
...
+noncomputable def OrthonormalBasis.measurableEquiv (b : OrthonormalBasis ι ℝ F) :
+    F ≃ᵐ EuclideanSpace ℝ ι := b.repr.toHomeomorph.toMeasurableEquiv
+
+/-- The measurable equivalence defined by an orthonormal basis is volume preserving. -/
+theorem OrthonormalBasis.volume_preserving_measurableEquiv (b : OrthonormalBasis ι ℝ F) :
+    MeasurePreserving b.measurableEquiv volume volume := by
+  convert (b.measurableEquiv.symm.measurable.measurePreserving _).symm
+  rw [← (EuclideanSpace.basisFun ι ℝ).addHaar_eq_volume]
+  erw [MeasurableEquiv.coe_toEquiv_symm, Basis.map_addHaar _ b.repr.symm.toContinuousLinearEquiv]
+  exact b.addHaar_eq_volume.symm
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/Haar/InnerProductSpace.lean:94]: Can you add a re-statement for `MeasurePreserving b.repr` too?

Comment (xroblot) [reply Mathlib/MeasureTheory/Measure/Haar/InnerProductSpace.lean:94]: Good idea since it is the spelling that I will actually need :)

File: Mathlib/MeasureTheory/Measure/Haar/InnerProductSpace.lean [hunk 2]
```diff
@@ -80,6 +80,25 @@ theorem OrthonormalBasis.addHaar_eq_volume {ι F : Type*} [Fintype ι] [NormedAd
   rw [Basis.addHaar_eq_iff]
   exact b.volume_parallelepiped
 
+/-- An orthonormal basis of a finite-dimensional inner product space defines a measurable
+equivalence between the space and the Euclidean space of the same dimension. -/
+noncomputable def OrthonormalBasis.measurableEquiv (b : OrthonormalBasis ι ℝ F) :
+    F ≃ᵐ EuclideanSpace ℝ ι := b.repr.toHomeomorph.toMeasurableEquiv
+
+/-- The measurable equivalence defined by an orthonormal basis is volume preserving. -/
+theorem OrthonormalBasis.volume_preserving_measurableEquiv (b : OrthonormalBasis ι ℝ F) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Haar/InnerProductSpace.lean:89]:
```suggestion
theorem OrthonormalBasis.measurePreserving_measurableEquiv (b : OrthonormalBasis ι ℝ F) :
```
Just to match the statement. (The more predictable it is, the easier to guess or to find). Same thing for the next ones.

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
